US08217069B2
9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-hydroxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one
To a solution of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-methyloxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (80 mg) in tetrahydrofuran (2 mL)-methanol (1 mL) was added concentrated hydrochloric acid (0.1 mL), and the mixture was stirred at room temperature for 2 hours, and then stirred at 60° C. for 1 hour. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/3) to give the title compound (22 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxy-methyloxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 80 mg | ClC1=C(C=C(C(=C1OC)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C23H21ClF2N4O6
reactant | methanol | 1 mL | CO | CH4O
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 9-[2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-hydroxyphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 22 mg | ClC1=C(C=C(C(=C1)O)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C21H17ClF2N4O5
